US05556864
5.09 g of benzaldehyde and 26.1 g of 2-benzyloxybenzyltriphenylphosphonium chloride (prepared as described in Preparation 1) were dissolved in 100 ml of acetonitrile, with heating. 8.04 g of 1,8-diazabicyclo[5.4.0]undec-7-ene were then added dropwise to the solution at 80° C., whilst stirring, and the resulting mixture was stirred at the same temperature for 40 minutes. At the end of this time, the solvent was removed by distillation under reduced pressure, and the resulting residue was partitioned between ethyl acetate and water. The organic layer was concentrated by distillation under reduced pressure, and 100 ml of a 2:1 by volume mixture of hexane and ethyl acetate were added to the resulting residue, and the mixture was agitated. Insoluble materials were filtered off, and the filtrate was concentrated by distillation under reduced pressure. The resulting residue was purified by column chromatography through silica gel, using a 30:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 10.4 g (yield 76%) of 2-benzyloxystilbene.

reactant | benzaldehyde | 5.09 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | 2-benzyloxybenzyltriphenylphosphonium chloride | 26.1 g | [Cl-].C(C1=CC=CC=C1)OC1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 8.04 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 2-benzyloxystilbene | 10.4 g, yield 76% | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C=CC1=CC=CC=C1 | C21H18O
